US05731315
C. 4-Hydroxymethyl-thiophene-2-carbonitrile
To a solution of (5-iodo-thiophene-3-yl)methanol (42 g, 176 mmol) in 150 mL of DMF is added zinc cyanide (12.4 g, 106 mmol) and tetrakis(triphenylphospine)palladium (0) (8.13 g, 7.04 mmol). The solution is heated to 80° C. After 6 h, the solution is diluted with 3 L of EtOAc. The resulting solution is washed with 1N NH4OH, H2O and sat. NaCl. The organic layer is dried over MgSO4, filtered and concentrated. The crude product is purified by column chromatography eluting with gradient of 20% EtOAc/hexanes to 30% EtOAc/hexanes to afford the title compound (10 g, 72 mmol) as a clear oil.

reactant | (5-iodo-thiophene-3-yl)methanol | 176 mmol, 42 g | IC1=CC(=CS1)CO | C5H5IOS
reactant | DMF | 150 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 3 L | CCOC(=O)C | C4H8O2
catalyst | zinc cyanide | 106 mmol, 12.4 g | [C-]#N.[Zn+2].[C-]#N
product | 4-Hydroxymethyl-thiophene-2-carbonitrile | 72 mmol, 10 g | OCC=1C=C(SC1)C#N | C6H5NOS
